US07384970B2
(S)—N-{3-Cyclohexyl-1-[2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide.
Following the procedures of Example 3, except using m-anisoyl chloride, (S)-2-amino-4-cyclohexyl-butyric acid, ethanolamine and 5-fluoroindoline as starting materials, the title compound was prepared in 40% yield. The final material was purified by reverse phase preparative HPLC using TFA as a modifier. The final compound is therefore a partial TFA salt and the properties are reported for the material as it appeared after solvent removal: 1H NMR (CDCl3, 400 MHz) δ 0.50-0.65 (m, 2H), 0.79-1.05 (m, 6H), 1.33-1.53 (m, 6H), 1.60-1.74 (m, 1H), 2.70 (dd, 2H, J1=J2=8.1), 2.94 (dd, 2H, J1=J2=6.0), 3.15 (dd, 2H, J1=J2=8.1), 3.20-3.43 (m, 2H), 3.60 (s, 3H), 4.30-4.38 (m, 1H), 6.17-6.23 (m, 1H), 6.45-6.55 (m, 1H), 6.56-6.60 (m, 1H), 6.62-6.74 (m, 2H), 6.78-6.88 (m, 1H), 6.94-7.15 (m, 3H); HPLC-MS calcd. for C28H36FN3O3 (M+H+) 482.3, found 482.5.

reactant | m-anisoyl chloride | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | (S)-2-amino-4-cyclohexyl-butyric acid | N[C@H](C(=O)O)CCC1CCCCC1 | C10H19NO2
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | 5-fluoroindoline | FC=1C=C2CCNC2=CC1 | C8H8FN
product | (S)—N-{3-Cyclohexyl-1-[2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide | 40% yield | C1(CCCCC1)CC[C@@H](C(NCCN1CCC2=CC(=CC=C12)F)=O)NC(C1=CC(=CC=C1)OC)=O | C28H36FN3O3
